US07632857B2
(3-Fluoro-4′-methanesulfonyl-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
Procedure EE: In a microwave reactor vessel, add (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone (1.0 mmol), 4-methanesulfonylphenyl boronic acid (2.5 mmol), dichloropalladium di-triphenylphosphine (0.2 mmol), cesium fluoride (9.0 mmol) and acetonitrile (0.20M) and run in a CEM microwave reactor for 10 minutes at 120° C. with 75W power and cooling on. After this time, wash the reaction with water while extracting with 10% isopropanol/dichloromethane. Dry the organic layer with sodium sulfate, filter and concentrate in vacuo. Purify the title compound via radial chromatography eluting with 2M ammonia in methanol and dichloromethane. MS (m/e): 431.2 (M+1)

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone | 1.0 mmol | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 4-methanesulfonylphenyl boronic acid | 2.5 mmol | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | cesium fluoride | 9.0 mmol | [F-].[Cs+]
solvent | acetonitrile | 0.20M | C(C)#N | C2H3N
product | (3-Fluoro-4′-methanesulfonyl-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC=1C=C(C=CC1C(=O)N1[C@@H](CCC1)CN1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C | C23H27FN2O3S
